US07939666B2
Stage 1: (S)-(4-Nitro-benzenesulfonylamino)-phenyl-acetic acid
To a solution of L-phenylglycine (0.227 g, 1.5 mmol) in water (5 ml) and dioxane (5 ml) was added triethylamine (0.42 ml, 3.0 mmol) followed by slow addition of 4-nitrobenzene sulphonyl chloride (0.5 g, 2.3 mmol) in dioxane (5 ml) at 0° C. After stirring for 45 minutes the reaction mixture was evaporated to dryness, re-dissolved in EtOAc and washed with saturated NaHCO3 solution (2×20 ml) and water (10 ml). The EtOAc layer was dried over Na2SO4, filtered and evaporated to dryness. LCMS purity 75%, (molecular ion not observed) yield 0.58 g, (76%). This material was used without any purification.

reactant | L-phenylglycine | 1.5 mmol, 0.227 g | C1=CC=C(C=C1)[C@@H](C(=O)O)N | C8H9NO2
reactant | triethylamine | 3.0 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzene sulphonyl chloride | 2.3 mmol, 0.5 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | water | 5 ml | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | (S)-(4-Nitro-benzenesulfonylamino)-phenyl-acetic acid | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)O)C1=CC=CC=C1 | C14H12N2O6S
